US20010018525A1
2′-Amino-3,3″-bis-trifluoromethyl-[1,1′;3′,1″]terphenyl-5′-carboxylic acid was prepared as an off white solid (0.992 g, 94%) from 4-amino-3,5-diiodobenzoic acid and 3-trifluoromethylphenyl boronic acid using a procedure similar to step 1 of Example 175. 1H NMR (CDCl3) δ7.90 (s, 2H); 7.78 (m, 2H); 7.74-7.60 (m, 6H); 4.24 (bs, 2H).

reactant | 4-amino-3,5-diiodobenzoic acid | NC1=C(C=C(C(=O)O)C=C1I)I | C7H5I2NO2
reactant | 3-trifluoromethylphenyl boronic acid | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
product | 2′-Amino-3,3″-bis-trifluoromethyl-[1,1′;3′,1″]terphenyl-5′-carboxylic acid | NC1=C(C=C(C=C1C1=CC(=CC=C1)C(F)(F)F)C(=O)O)C1=CC(=CC=C1)C(F)(F)F | C21H13F6NO2
